US06858591B2
A solution of (2S,3S)-2-amino-3-hydroxy-4-methyl-pentanoic acid tert-butyl ester (297 mg, 1.37 mmol) and triethylamine (139 mg, 1.37 mmol) in anhydrous methylene chloride (2 ml) was cooled to 0° C. under a nitrogen atmosphere. To this solution was added N-(benzyloxycarbonyloxy)-succinimide (343 mg, 1.37 mmol). The resulting mixture was warmed to room temperature and stirred for 15 hours. The reaction mixture was partitioned between ether and water. The organic layer was washed with cold 1N hydrochloric acid and saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated in vacuo, to provide tert-butyl (2S,3S)-2-{[(benzyloxy)carbonyl]-amino}-3-hydroxy-4-methylpentanoate (445 mg, 96%) as a yellow oil.

reactant | (2S,3S)-2-amino-3-hydroxy-4-methyl-pentanoic acid tert-butyl ester | 1.37 mmol, 297 mg | C(C)(C)(C)OC([C@H]([C@H](C(C)C)O)N)=O | C10H21NO3
reactant | triethylamine | 1.37 mmol, 139 mg | C(C)N(CC)CC | C6H15N
reactant | N-(benzyloxycarbonyloxy)-succinimide | 1.37 mmol, 343 mg | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S)-2-{[(benzyloxy)carbonyl]-amino}-3-hydroxy-4-methylpentanoate | 445 mg, 96% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)[C@H](C(C)C)O | C18H27NO5
